Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics) / Sulfa(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
___ year old woman with no PMH presents with 5 days of abdominal 
pain and nausea, and one day of nausea/hematemesis.
.
5 days ago patient experienced ___ loose non bloody bowel 
movements per day, assocaiated with mild intermittent lower 
abdominal pain.  Three days ago, she noted shaking and felt hot 
and sweaty, thought she hd a temperature, but did not have a 
thermometer.  This evening around 7:00 pm she became acutely 
nauseous and vomiting with BRB.  With her second emesis, she 
vomited > 1 cup BRB. She then had 4 more episodes of 
hematemesis, < 1 cup.  
.
Denies dizziness, lightheadedness, syncope, chest pain.  No 
recent travel or food experiementation.  She does note a tick 
bite to her right thigh about 1 week ago.  She removed it 
promptly, and did not have any rash.
.
On arrival to the ED VS were 97.1 98 102/59 15 99% RA.  NGT was 
placed, removed mild BRB and coffee grounds, cleared after 500cc 
lavage. Guaiac negative brown stool.  Hct 40.  Called GI, 
thought likely ___ tear, would consider endoscopy in 
am.  Started on pantoprazole bolus + drip, 2 18g PIVs placed.  
Given 2L NS.  Admitted to ICU for UGIB.
.
On arrival to the MICU, she feels shaky, but nausea is improved 
since arrival.
 
Past Medical History:
None
 
Social History:
___
Family History:
Father with type ___ DM and bladder cancer, mother with lung 
cancer.
 
Physical Exam:
ADMISSION EXAM:  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred, finger-to-nose intact 
.
DISCHARGE EXAM:
VS: 98.0, 100-110/60-76, 73-86, 18, 95% on 4L 
Gen: Well-appearing, alert, and communicative
HEENT: MMM
Lungs: Minimal crackles anteriorly R>L. 
Heart: RRR, no murmuirs, no rubs
Abd: Soft, nontender, nondistended
Ext: Trace pedal edema, edema of right hand, clubbing of 
fingers. No further rashon legs
 
Pertinent Results:
ADMISSION LABS:
___ 09:30PM BLOOD WBC-15.6* RBC-4.54 Hgb-13.8 Hct-40.6 
MCV-89 MCH-30.3 MCHC-33.9 RDW-11.8 Plt ___
___ 09:30PM BLOOD Neuts-87.7* Lymphs-6.1* Monos-5.6 Eos-0.4 
Baso-0.2
___ 09:30PM BLOOD ___ PTT-29.8 ___
___ 09:30PM BLOOD Glucose-126* UreaN-17 Creat-0.9 Na-128* 
K-3.6 Cl-89* HCO3-25 AnGap-18
___ 09:30PM BLOOD ALT-59* AST-51* AlkPhos-68 TotBili-0.6
.
DISCHARGE LABS:
___ 01:30PM BLOOD WBC-8.3 RBC-4.09* Hgb-12.1 Hct-38.0 
MCV-93 MCH-29.6 MCHC-31.9 RDW-12.9 Plt ___
___ 06:15AM BLOOD Neuts-79.3* Lymphs-15.4* Monos-4.7 
Eos-0.1 Baso-0.5
___ 04:25AM BLOOD Hypochr-1+ Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-OCCASIONAL Microcy-OCCASIONAL 
Polychr-OCCASIONAL
___ 05:15PM BLOOD Parst S-NEGATIVE
___ 01:30PM BLOOD Glucose-94 UreaN-10 Creat-0.6 Na-138 
K-4.5 Cl-103 HCO3-27 AnGap-13
___ 06:15AM BLOOD ALT-49* AST-59* AlkPhos-63 TotBili-0.4
.
MICROBIOLOGY:
___ Urine culture: mixed flora
___ Blood culture: no growth to date
___ Influenza A/B nasopharyngeal swab: negative
___ Lyme serology: pending 
___ H. pylori Ab: negative
___ Urine Legionella Ag: negative
___ Blood culture: no growth to date
___ Blood culture: no growth to date 
___ Blood culture (mycolytic): no growth to date 
___ Stool culture/C. diff: pending 
.
IMAGING: 
___ CXR: The lung apices are not depicted. NG tube ends in 
the gastric antrum in appropriate position. The lungs are clear, 
the cardiomediastinal silhouette and hila are normal. There is 
no pleural effusion and no pneumothorax. Partially visualized 
abdomen shows normal bowel gas pattern. 

EGD ___:
Esophagitis in the lower third of the esophagus
Small hiatal hernia
Friability and erythema in the antrum and stomach body 
compatible with gastritis
Ulcer in the pylorus
Ulcers in the duodenal bulb
Otherwise normal EGD to third part of the duodenum 
Recommendations: Prilosec 40mg BID
Advance diet as tolerated. Avoid NSAIDs. Serial hcts. Active 
type and cross. GI bleeding is unlikely the cause of the 
patient's current hypotensive episodes and warrents further 
investigation for a possible infectious cause. Given the clear 
history of NSAID use, follow up egd is not required but would 
check a h pylori serology and treat if positive. Would need a 
test of cure 4 weeks post h pylori serology as well. 

.
___ CTA chest: 
1. No PE.  
2. Mild pulmonary edema. 
3. Upper lobe peribronchovascular airspace filling could be 
edema or a manifestation of more severe airspace abnormality in 
the lower lungs, mostly consolidation, partially atelectasis, 
due to aspiration, multifocal 
pneumonia, or less likely hemorrhage. In the setting of a recent 
transfusions, transfusion reaction may be contributory.    
4. Esophageal wall thickening, with diffuse infiltration of the 
mediastinal fat which may reflect inflammatory change or 
confluent lymphadenopathy, though the progression from normal 
mediastinal contours on ___ favors a rapidly evolving 
inflammatory process. There is no finding to suggest esophageal 
perforation. 
.
___ CXR: As compared to the previous radiograph, there is a 
massive increase in extent and severity of multifocal pneumonia. 
The resulting very widespread parenchymal opacities are more 
extensive on the right than on the left and show multiple air 
bronchograms. In addition, retrocardiac atelectasis has newly 
appeared, and there is a small right pleural effusion. The 
opacities are better displayed on the CTA examination, performed 
yesterday at 9:41 p.m. Moderate cardiomegaly. 

 
Brief Hospital Course:
___ year old woman with no known medical history who presented 
with subjective fevers, abdominal pain, and hematemesis and 
developed hypoxic respiratory failure. Clinical picture likely 
consistent with an initial gastroenteritis with emesis likely 
leading to aspiration pneumonia and hematemesis.

# Hematemesis: EGD revealed mild esophagitis, a non-bleeding 7mm 
ulcer in the pylorus, and several superficial non-bleeding 
ulcers ranging in size from 3mm to 5mm in the duodenal bulb. 
This was likely due to aspirin use and recurrent emesis. H. 
pylori antibody is negative. Her HCT continued to rise and she 
was transitioned from a pantoprazole gtt to pantoprazole 40mg PO 
Q12h.   

# Hypoxemic Respiratory Failure: Patient developed fevers and 
new hypoxia on ___. She was empirically treated for pneumonia 
with ceftriaxone. CT chest showed likely multifocal pneumonia 
which was possible due to aspiration. Given these findings, 
antibiotics were broadened to vanc/levo/flagyl and ID was 
consulted. The vanc was discontinued on ___ and the patient was 
discharged with PO levo and flagyl for likely aspiration 
pneumonia. Her pulmonary status improved significantly during 
hosptialization and she was satting 100% on RA at discharge.

# Volume overload: the patient received over 12L of IV fluids in 
the ICU in the setting of hypotension (BP 80/40s with fever, 
mottled legs, likely sepsis with pulmonary source). After pt 
stabalized, she was gently diuresed.

# Diarrhea/Abdominal Pain: Likely viral gastroenteritis as this 
resolved during the hospitalization. Stool cultures, including C 
diff, were negative.

# Tick Bite: Recent tick bite removed quickly. Lyme serologies 
were negative and smear was negative for babesiosis although   
ANAPLASMA PHAGOCYTOPHILUM was negative.
.  
# Transaminitis: Very mild transaminitis (50s). No RUQ pain, no 
hyperbilirubinemia. Likely related to viral 
gastroenteritis/acute infectious process. 

Transitional issues/INcidental radiographic findings.
-Pt will require primary care follow up: has not seen a PCP ___ 
___ years. Would follow LFT's as well. 
-Pt has recently decided to stop smoking. Outpatient support 
should be provided to support this goal.
-Pt still mildly volume overload at discharge. She was 
mobilizing and self-diuresing effectively and will follow up 
with PCP closely to see if she would benefit from lasix.
-___ WAS NOTED TO HAVE ESOPHAGEAL WALL THICKENING ON CT WITH 
CONFLUENT LYMPHADENOPATHY THAT FAVORED AN INFLAMMATORY PROCESS. 
This will likely require further work up
 
Medications on Admission:
None
 
Discharge Medications:
1. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H Duration: 6 Days 
RX *metronidazole 500 mg Every 8 hours Disp #*18 Tablet 
Refills:*0
2. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg twice a day Disp #*60 Tablet Refills:*2
3. Levofloxacin 750 mg PO DAILY 
RX *Levaquin 750 mg daily Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia- multifocal
Ulcers of the stomach and duodenum (upper small intestine).
Diarrhea
Gastroenteritis
Pulmonary Edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were treated in the hospital for pneumonia and vomitting up 
of blood clots that likely developed because of vomitting, 
diarrhea, and fevers (possibly due to a stomach flu) as well as 
high doses of aspirin that worsened your stomach and small 
intestine ulcers. 

It is important that you complete the course of antibiotics for 
treatment of your pneumonia. Please take Levofloxacin 750 mg by 
mouth daily and metronidazole 500 mg by mouth every 8 hours for 
six more days.

As you know, you were given many liters of fluids through your 
veins while you were in the intensive care unit because you were 
so sick. You will continue to urinate out this fluid within the 
next several days.

Because you vomitted blood, we took a look at your esophagus, 
stomach, and upper small intestines with a camera. We saw that 
you have an ulcer in your stomach and several ulcers of your 
upper small intestine. To help treat your ulcers, it is 
important that you start to take Prilosec (omeprazole) 40mg 
twice a day. It is also important that you avoid all 
non-steroidal anti-inflammatory drugs, including ibuprofen, 
alleve, and aspirin. You may take tylenol.

You developed new diarrhea in the hospital. This is most likely 
likely due to antibiotics and should resolve as your gut flora 
return. You can take yogurt or lactobacillus supplements to 
accelerate this process. If your diarrhea gets worse or you 
develop any fevers, please see your doctor.

Finally, it is important that you begin to see a primary care 
doctor regularly. Please follow-up regarding this 
hospitalization with ___ NP (see appointment below). At 
that time, you will also be set up with a primary care doctor.

We have made the following changes to your medications:
START Levofloxacin 750 mg by mouth daily and metronidazole 500 
mg by mouth every 8 hours for six more days.
START Pantoprazole 40mg by mouth twice a day

 
Followup Instructions:
___